US07553854B2
To the reaction solution of 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)picolinic acid (5 mg, 39 μmol), HATU (15 mg, 39 μmol) and DIPEA (14 μL, 78 μmol) in 1 ml of NMP was added cyclopropylamine (7 ul mg, 30 μmol). The reaction solution was stirred at room temperature for 12 hours. The crude reaction solution was purified on prep HPLC and evaporated in vacuo to give N-cyclopropyl-4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)picolinamide (1 mg, 2.3 μmol) as white powder. ES/MS m/z 425.2 (MH+).

reactant | 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)picolinic acid | 39 μmol, 5 mg | O[C@H]1[C@@H](CCCC1)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)O | C19H19N3O4S
reactant | HATU | 39 μmol, 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 78 μmol, 14 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 30 μmol, 7 ul | C1(CC1)N | C3H7N
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | N-cyclopropyl-4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)picolinamide | 2.3 μmol, 1 mg | C1(CC1)NC(C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@H]2[C@@H](CCCC2)O)C=C1)=O | C22H24N4O3S
